### PR TITLE
feat(Topology/ShrinkingLemma): add finite shrinking and swelling lemmas

### PR DESCRIPTION
**Pull request by yuanyi-350**
- [ ] depends on #43760

### CODE REVIEW

File: Mathlib/Topology/ShrinkingLemma.lean [hunk 1]
```diff
@@ -256,6 +259,40 @@ theorem exists_iUnion_eq_closed_subset (uo : ∀ i, IsOpen (u i)) (uf : ∀ x, {
   let ⟨v, vU, hv⟩ := exists_subset_iUnion_closed_subset isClosed_univ uo (fun x _ => uf x) uU.ge
   ⟨v, univ_subset_iff.1 vU, hv⟩
 
+/-- A finite family of closed sets with empty intersection in a normal space has open
+neighborhoods whose closures still have empty intersection. -/
+lemma existsOpen_superset_closure_biInter_eq_empty
+    {X : Type*} [TopologicalSpace X] [NormalSpace X] {ι : Type*} {s : Finset ι} {K : ι → Set X}
```
Comment (j-loreaux) [inline Mathlib/Topology/ShrinkingLemma.lean:265]: I think you should take a `{s : Set ι}` with `(hs : s.Finite)` here instead.

File: Mathlib/Topology/ShrinkingLemma.lean [hunk 2]
```diff
@@ -256,6 +259,40 @@ theorem exists_iUnion_eq_closed_subset (uo : ∀ i, IsOpen (u i)) (uf : ∀ x, {
   let ⟨v, vU, hv⟩ := exists_subset_iUnion_closed_subset isClosed_univ uo (fun x _ => uf x) uU.ge
   ⟨v, univ_subset_iff.1 vU, hv⟩
 
+/-- A finite family of closed sets with empty intersection in a normal space has open
+neighborhoods whose closures still have empty intersection. -/
+lemma existsOpen_superset_closure_biInter_eq_empty
```
Comment (j-loreaux) [inline Mathlib/Topology/ShrinkingLemma.lean:264]: this doesn't follow our naming conventions. There is not exclaration `existsOpen`.

File: Mathlib/Topology/ShrinkingLemma.lean [hunk 3]
```diff
@@ -256,6 +259,40 @@ theorem exists_iUnion_eq_closed_subset (uo : ∀ i, IsOpen (u i)) (uf : ∀ x, {
...
+  refine ⟨fun i ↦ ⟨⋂ h : i ∈ s, (closure (V ⟨i, h⟩))ᶜ,
+    isOpen_iInter_of_finite fun _ ↦ isClosed_closure.isOpen_compl⟩,
+    fun i ↦ subset_iInter fun h ↦ subset_compl_comm.mp (hV ⟨i, h⟩), ?_⟩
+  apply subset_eq_empty ?_ (by simpa [compl_iUnion] using congrArg compl hVcover)
+  refine subset_iInter fun i ↦ (iInter₂_subset i.1 i.2).trans ?_
+  simpa [closure_compl] using compl_subset_compl.mpr (hVopen i).subset_interior_closure
+
+/-- A finite family of closed sets in a normal space has open neighborhoods with closures
+inside prescribed open supersets, preserving every empty finite intersection. -/
+lemma existsOpenSwelling_preservingFiniteIntersections
```
Comment (j-loreaux) [inline Mathlib/Topology/ShrinkingLemma.lean:280]: likewise, this really violates the naming conventions.

File: Mathlib/Topology/ShrinkingLemma.lean [hunk 4]
```diff
@@ -256,6 +256,45 @@ theorem exists_iUnion_eq_closed_subset (uo : ∀ i, IsOpen (u i)) (uf : ∀ x, {
   let ⟨v, vU, hv⟩ := exists_subset_iUnion_closed_subset isClosed_univ uo (fun x _ => uf x) uU.ge
   ⟨v, univ_subset_iff.1 vU, hv⟩
 
+/-- A finite family of closed sets with empty intersection in a normal space has open
+neighborhoods whose closures still have empty intersection. -/
+lemma exists_isOpen_superset_closure_biInter_eq_empty
+    {X : Type*} [TopologicalSpace X] [NormalSpace X] {ι : Type*} {s : Set ι} {K : ι → Set X}
+    (hs : s.Finite) (hKclosed : ∀ i ∈ s, IsClosed (K i)) (hKempty : ⋂ i ∈ s, K i = ∅) :
+    ∃ U : ι → Set X, (∀ i, IsOpen (U i)) ∧ (∀ i, K i ⊆ U i) ∧
+      ⋂ i ∈ s, closure (U i) = ∅ := by
```
Comment (j-loreaux) [inline Mathlib/Topology/ShrinkingLemma.lean:265]: Both of these lemmas should follow (~~and are likely not even necessary~~, I might be wrong about this) from the following one:

```lean
lemma Set.Finite.iInf_nhdsSet_eq_bot_of_isClosed
    {X : Type*} [TopologicalSpace X] [NormalSpace X] {ι : Type*} {s : Set ι} {K : ι → Set X}
    (hs : s.Finite) (hKclosed : ∀ i ∈ s, IsClosed (K i)) (hKempty : ⋂ i ∈order s, K i = ∅) :
    ⨅ i ∈ s, 𝓝ˢ (K i) = ⊥ := by
```
Your lemmas would then follow from [hasBasis_nhdsSet_closure](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Separation/Regular.html#hasBasis_nhdsSet_closure) and the lemma I am adding in #43760.

Comment (j-loreaux) [reply Mathlib/Topology/ShrinkingLemma.lean:265]: We could also have these lemmas (in a normal space):
```lean
theorem IsClosed.nhdsSet_inter_eq {s t : Set X} (hs : IsClosed s) (ht : IsClosed t) :
    𝓝ˢ (s ∩ t) = 𝓝ˢ s ⊓ 𝓝ˢ t := by
  sorry

theorem Set.Finite.nhdsSet_biInter_eq {ι : Type*} {s : Set ι} {K : ι → Set X} (hs : s.Finite)
    (hK : ∀ i ∈ s, IsClosed (K i)) : 𝓝ˢ (⋂ i ∈ s, K i) = ⨅ i ∈ s, 𝓝ˢ (K i) := by
  sorry

theorem Finset.nhdsSet_biInter_eq {ι : Type*} {s : Finset ι} {K : ι → Set X}
    (hK : ∀ i ∈ s, IsClosed (K i)) : 𝓝ˢ (⋂ i ∈ s, K i) = ⨅ i ∈ s, 𝓝ˢ (K i) := by
  sorry
```
